US04987132
A solution of the 3-(4-methoxyphenyl)propionic acid in 100 ml of anhydrous ether was added dropwise to a suspension of 1.10 g of lithium aluminum hydride in 50 ml of anhydrous ether with stirring at room temperature over 20 minutes. After stirring at room temperature for 30 minutes, the mixture was refluxed for 1 hours. After cooling, water was added with ice cooling, and the mixture was made acidic by further addition of 10% hydrochloric acid and then extracted with ether. The organic layer was washed with saturated aqueous solution of sodium chloride, driven over anhydrous magnesium sulfate and concentrated under reduced pressure to give 5.06 g of 3-(4-methoxyphenyl)propanol.

reactant | 3-(4-methoxyphenyl)propionic acid | COC1=CC=C(C=C1)CCC(=O)O | C10H12O3
reactant | lithium aluminum hydride | 1.10 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | ether | 50 ml | CCOCC | C4H10O
product | 3-(4-methoxyphenyl)propanol | 5.06 g | COC1=CC=C(C=C1)CCCO | C10H14O2
